US04582839
A mixture of methyl 2-bromo-3-{4-[3-hydroxy-2-(3-methyl-2-pyridyl)propoxy]phenyl}propionate (4.7 g), thiourea (875 mg), sodium acetate (943 mg) and ethanol (50 ml) was heated under reflux for 3 hours. The mixture was diluted with water, neutralized with aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and freed of the solvent to give 5-{4-[3-hydroxy-2-(3-methyl-2-pyridyl)propoxy]-benzyl}-2-imino-4-thiazolidinone in the form of crystals. Yield of 25 g. Recrystallization from chloroform-methanol produced colorless prisms. m.p. 213°-214° C.

reactant | methyl 2-bromo-3-{4-[3-hydroxy-2-(3-methyl-2-pyridyl)propoxy]phenyl}propionate | 4.7 g | BrC(C(=O)OC)CC1=CC=C(C=C1)OCC(CO)C1=NC=CC=C1C | C19H22BrNO4
reactant | thiourea | 875 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 943 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-{4-[3-hydroxy-2-(3-methyl-2-pyridyl)propoxy]-benzyl}-2-imino-4-thiazolidinone | OCC(COC1=CC=C(CC2C(NC(S2)=N)=O)C=C1)C1=NC=CC=C1C | C19H21N3O3S
